US09216998B2
The 6-hydroxy-6-phenethyl-N-phenyl-7-(trifluoromethyl)-3,4,6,7-tetrahydro-[1,4]diazepino[6,7,1-hi]indole-2(1H)-carboxamide was further processed with thionyl chloride and pyridine as described in Example 1, above to yield 6-phenethyl-N-phenyl-7-(trifluoromethyl)-3,4-dihydro-[1,4]diazepino[6,7,1-hi]indole-2(1H)-carboxamide (5 mg).

reactant | 6-hydroxy-6-phenethyl-N-phenyl-7-(trifluoromethyl)-3,4,6,7-tetrahydro-[1,4]diazepino[6,7,1-hi]indole-2(1H)-carboxamide | OC1(C(C=2C=CN3C2C(=C1)CNC(C3)C(=O)NC3=CC=CC=C3)C(F)(F)F)CCC3=CC=CC=C3 | C27H26F3N3O2
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 6-phenethyl-N-phenyl-7-(trifluoromethyl)-3,4-dihydro-[1,4]diazepino[6,7,1-hi]indole-2(1H)-carboxamide | 5 mg | C(CC1=CC=CC=C1)C=1C(=C2C=CN3C2=C(C1)CNC(C3)C(=O)NC3=CC=CC=C3)C(F)(F)F | C27H24F3N3O
